US04772600
2-(4-Chlorophenyl)-N-[4-(dimethylamino)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide
Under a nitrogen atmosphere, oxalyl chloride (2.21 g, 0.0174 mole) was added slowy dropwise to a stirred and cooled (0°-10° C.) suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole) in 50 ml of dimethylformamide. After the addition was complete, the reaction solution was heated at 60° C. for 5 hrs. The acylchloride solution was added dropwise to a stirred and cooled (<10° C.) suspension of N,N-dimethyl-1,4-phenylenediamine dihydrochloride (3.64 g, 0.0174 mole), triethylamine (5.27 g, 0.052 mole), and 75 ml of dimethylformamide. The reaction mixture was stirred at room temperature overnight. The reaction mixture was poured into 1800 ml of water and refrigerated overnight. The solid was collected by filtration and dried. The solid was recrystallized twice from isopropyl alcohol, collected by filtration, washed with water, and dried under high vacuum at 98° C. overnight to give 0.9 g (12.7%) of crystals, mp 245°-246.5° C.

reactant | oxalyl chloride | 0.0174 mole, 2.21 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | N,N-dimethyl-1,4-phenylenediamine dihydrochloride | 0.0174 mole, 3.64 g | Cl.Cl.CN(C1=CC=C(C=C1)N)C
reactant | triethylamine | 0.052 mole, 5.27 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | water | 1800 ml | O | H2O
product | 2-(4-Chlorophenyl)-N-[4-(dimethylamino)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 0.9 g, 12.7% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1=CC=C(C=C1)N(C)C | C22H20ClN5O
